US03988342
1-Methyl-4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide, 18.40 g. (0.05 mole) is dissolved with warming in 750 ml. of glacial acetic acid. This solution is cooled to room temperature and 8.0 g., 2.6 ml., (0.05 mole) of bromine dissolved in 75 ml. of glacial acetic acid is added dropwise with stirring. After completion of the addition the mixture is stirred overnight. The crystals are collected, washed with a small amount of cold glacial acetic acid, then with dry ether, and then dried for 2 hours in a vacuum oven at 70° C. to give 1-methyl-4-(10,11-dibromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide. Recrystallization from acetonitrile gives an analytical sample, m.p. 185°-186° C.

reactant | 1-Methyl-4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide | Br.CN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2
reactant | bromine | 0.05 mole | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-methyl-4-(10,11-dibromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)-piperidine hydrobromide | Br.CN1CCC(CC1)=C1C2=C(C(C(C3=C1C=CC=C3)Br)Br)C=CC=C2 | InChI=1S/C21H21Br2N.BrH/c1-24-12-10-14(11-13-24)19-15-6-2-4-8-17(15)20(22)21(23)18-9-5-3-7-16(18)19;/h2-9,20-21H,10-13H2,1H3;1H
